US06703425B2
Preparation of 1-(4-Acetyl-2,5-difluorophenyl)ethan-1-one
1,4-dibromo-2,5-Difluorobenzene (2.5 g, 9.2 mmol), dichlorobis(triphenylphosphine) palladium (II) (0.645 g, 0.92 mmol), tributyl-(1-ethoxyvinyl)tin (10 g, 27.7 mmol), and THF (50 mL) were combined in a manner analogous to the procedure described in example 14 to provide the intermediate title compound, 1-(4-acetyl-2,5-difluorophenyl)ethan-1-one, (1.8 g, 100%) as a white crystal. Electron spray M.S. 197.9 (M*−H).

reactant | 1,4-dibromo-2,5-Difluorobenzene | 9.2 mmol, 2.5 g | BrC1=C(C=C(C(=C1)F)Br)F | C6H2Br2F2
reactant | tributyl-(1-ethoxyvinyl)tin | 27.7 mmol, 10 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(4-acetyl-2,5-difluorophenyl)ethan-1-one | 1.8 g, 100% | C(C)(=O)C1=CC(=C(C=C1F)C(C)=O)F | C10H8F2O2
